US08334308B2
Step 1: 2-(2,4-Dichloro-4-methylphenoxy)ethanol
2,6-Dichloro-4-methylphenol (1 eq.), ethylene carbonate (1 eq.) and imidazole (0.5% loading) were combined and heated at 150° C. for 4 h to afford the title compound as a brown oil.

reactant | 2,6-Dichloro-4-methylphenol | 1 eq. | ClC1=C(C(=CC(=C1)C)Cl)O | C7H6Cl2O
reactant | ethylene carbonate | 1 eq. | C1(OCCO1)=O | C3H4O3
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 2-(2,4-Dichloro-4-methylphenoxy)ethanol | ClC1=C(OCCO)C=CC(C1)(C)Cl | C9H12Cl2O2
